US07745438B2
Dibenzyl-{(1S,2R)-2-benzyloxy-1-(3,5-difluorobenzyl)-2-[(3R,5S,6S)-6-(1-fluorocyclohexylmethoxy)-5-methylmorpholin-3-yl]-ethyl}-amine
Add triphosgene (246 mg, 0.79 mmol) at room temperature to a solution of (3S,5R)-5-[(1R,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-3-methylmorpholin-2-ol (1 g, 1.75 mmol) and triethylamine (0.99 mL, 7 mmol) in anhydrous dichloromethane (17 mL). Stir for 30 min, cool to 0° C. and add (1-fluorocyclohexyl)-methanol (1.16 g, 8.75 mmol) and trimethylsilyl trifluoromethanesulfonate (TMSOTf) (0.64 mL, 3.5 mmol). Stir at 0° C. for 1 hour and at room temperature for 2 hours. Add more trimethylsilyl trifluoromethanesulfonate (0.16 mL, 0.87 mmol) and stir at room temperature for 30 min. Add 10% aqueous potassium carbonate, separate the organic layer and extract the aqueous layer with dichloromethane. Combine the organic layers, dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 0:100 to 20:80 hexanes:ethyl acetate), to give the title compound as a colorless oil (375 mg).

reactant | triphosgene | 0.79 mmol, 246 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | (3S,5R)-5-[(1R,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-3-methylmorpholin-2-ol | 1.75 mmol, 1 g | C(C1=CC=CC=C1)O[C@@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)[C@H]1COC([C@@H](N1)C)O | C35H38F2N2O3
reactant | triethylamine | 7 mmol, 0.99 mL | C(C)N(CC)CC | C6H15N
reactant | (1-fluorocyclohexyl)-methanol | 8.75 mmol, 1.16 g | FC1(CCCCC1)CO | C7H13FO
reactant | trimethylsilyl trifluoromethanesulfonate | 3.5 mmol, 0.64 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | trimethylsilyl trifluoromethanesulfonate | 0.87 mmol, 0.16 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
product | Dibenzyl-{(1S,2R)-2-benzyloxy-1-(3,5-difluorobenzyl)-2-[(3R,5S,6S)-6-(1-fluorocyclohexylmethoxy)-5-methylmorpholin-3-yl]-ethyl}-amine | 375 mg | C(C1=CC=CC=C1)N([C@H]([C@@H]([C@@H]1N[C@H]([C@@H](OC1)OCC1(CCCCC1)F)C)OCC1=CC=CC=C1)CC1=CC(=CC(=C1)F)F)CC1=CC=CC=C1 | C42H49F3N2O3
